US07199120B2
To a solution of 7-chloro-2-(4-pyridinyl)pyrazolo[1,5-a]pyridine (2.0 g, 8.7 mmol) in acetonitrile (50 mL) at room temperature was added acetic anhydride (2.0 mL, 21 mmol). Boron trifluoride diethyletherate (5.3 mL, 42 mmol) was added dropwise and the resulting solution was heated at 80° C. for 12 hours. The reaction mixture was cooled to room temperature and quenched by the dropwise addition of saturated sodium bicarbonate. The reaction mixture was extracted with ethyl acetate, and the organic phase phase washed with brine, dried (magnesium sulfate), filtered and concentrated. The residue was purified by silica gel chromatography (5:95 methanol-dichloromethane) to give 1-[7-chloro-2-(4-pyridinyl)pyrazolo[1,5-a]pyridin-3-yl]ethanone (1.53 g, 65%) as a red foam. 1H NMR (CDCl3): δ 8.82 (m, 2H), 8.45 (d, 1H), 7.62 (m, 2H), 7.54 (t, 1H), 7.25 (d, 1H), 2.26 (s, 3H); MS m/272 (M+1).

reactant | 7-chloro-2-(4-pyridinyl)pyrazolo[1,5-a]pyridine | 8.7 mmol, 2.0 g | ClC1=CC=CC=2N1N=C(C2)C2=CC=NC=C2 | C12H8ClN3
reactant | acetic anhydride | 21 mmol, 2.0 mL | C(C)(=O)OC(C)=O | C4H6O3
reactant | Boron trifluoride | B(F)(F)F | BF3
solvent | acetonitrile | 50 mL | C(C)#N | C2H3N
product | 1-[7-chloro-2-(4-pyridinyl)pyrazolo[1,5-a]pyridin-3-yl]ethanone | 1.53 g, 65% | ClC1=CC=CC=2N1N=C(C2C(C)=O)C2=CC=NC=C2 | C14H10ClN3O
